US06630598B2
Production of N-acetyl-2-nitroaniline
1.89 g of sodium hydride (60% content) was suspended in 23.76 g of tetrahydrofuran and cooled with ice. To the obtained suspension, 23.79 g of a tetrahydrofuran solution containing 3.00 g of 2nitroaniline was dropwise added over 1 hour, stirred for 10 minutes, allowed to stand at room temperature and stirred for 30 minutes. To the obtained mixture, 2.41 g of acetic anhydride was added dropwise over 1 hr at room temperature and stirred for 2 hours. Then, water was added to the reaction mixture, and extraction and separation were conducted. The obtained organic layer was analyzed by high performance liquid chromatography to find the yield of the desired product was 84%.

reactant | sodium hydride | 1.89 g | [H-].[Na+]
reactant | 2nitroaniline | 3.00 g | [N+](=O)([O-])C1=C(N)C=CC=C1 | C6H6N2O2
reactant | acetic anhydride | 2.41 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | water | O | H2O
solvent | tetrahydrofuran | 23.76 g | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 23.79 g | O1CCCC1 | C4H8O
product | N-acetyl-2-nitroaniline | C(C)(=O)NC1=C(C=CC=C1)[N+](=O)[O-] | C8H8N2O3
